US08236826B2
Production of ethyl 3-(4-(5-(N-(4-(trifluoromethyl)-phenyl)sulfamoyl)pyridin-2-yloxy)phenyl)propionate
To a solution of ethyl 3-(4-(3-bromo-5-(N-(4-(trifluoromethyl)phenyl)sulfamoyl)pyridin-2-yloxy)phenyl)propionate (0.41 g, 0.7 mmol) in ethanol (10 mL) were added 10% palladium-carbon (0.041 g) and ammonium formate (0.226 g, 3.6 mmol), and the resulting solution was heated to reflux for 2 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was then purified by silica gel chromatography (n-hexane:ethyl acetate=4:1), to thereby yield 0.28 g of the title compound.

reactant | ethyl 3-(4-(3-bromo-5-(N-(4-(trifluoromethyl)phenyl)sulfamoyl)pyridin-2-yloxy)phenyl)propionate | 0.7 mmol, 0.41 g | BrC=1C(=NC=C(C1)S(NC1=CC=C(C=C1)C(F)(F)F)(=O)=O)OC1=CC=C(C=C1)CCC(=O)OCC | C23H20BrF3N2O5S
reactant | ammonium formate | 3.6 mmol, 0.226 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.041 g | [C].[Pd]
product | ethyl 3-(4-(5-(N-(4-(trifluoromethyl)-phenyl)sulfamoyl)pyridin-2-yloxy)phenyl)propionate | FC(C1=CC=C(C=C1)NS(=O)(=O)C=1C=CC(=NC1)OC1=CC=C(C=C1)CCC(=O)OCC)(F)F | C23H21F3N2O5S
